US07968570B2
A mixture of 4-trifluoromethyl-benzyl amine (0.142 mL, 1.0 mmol), 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester (0.270 g, 0.73 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. The resulting mixture was filtered and concentrated. Silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-fluoro-7-iodo-2-(4-trifluoromethyl-benzyl)-2,3-dihydro-isoindol-1-one (0.110 g, 35%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.18 (s, 2H), 4.84 (s, 2H), 7.10 (d, 1H), 7.42 (d, 2H), 7.60 (m, 2H), 7.66 (d, 1H). GC-MS: m/z 435 (M)+, 416 (M−19)+.

reactant | 4-trifluoromethyl-benzyl amine | 1.0 mmol, 0.142 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 2-bromomethyl-4-fluoro-6-iodo-benzoic acid methyl ester | 0.73 mmol, 0.270 g | COC(C1=C(C=C(C=C1I)F)CBr)=O | C9H7BrFIO2
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 5-fluoro-7-iodo-2-(4-trifluoromethyl-benzyl)-2,3-dihydro-isoindol-1-one | 0.110 g, 35% | FC=1C=C2CN(C(C2=C(C1)I)=O)CC1=CC=C(C=C1)C(F)(F)F | C16H10F4INO
